US06159904
1.1 Grams (2.7 mmol) of 3,4-dichloro-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide was dissolved in 5 ml of methylene chloride, and then a solution of 0.65 g (4.7 mmol) of potassium carbonate in 3 ml of water was added. Further, 0.5 ml of (4.7 mmol) of n-propanesulfonyl chloride and 20 mg (0.08 mmol) of benzyltriethylammonium chloride were added, and the mixture was allowed to react at room temperature for 1 day. After the completion of the reaction, a methylene chloride layer was separated, and dried over anhydrous sodium sulfate, and then the solvent was distilled off under reduced pressure to give 1.2 g (yield 50%) of 3,4-dichloro-5-methyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide.

reactant | 3,4-dichloro-5-methyl-6-(1-ethyl-5-hydroxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 2.7 mmol | ClC1CS(C2=CC=C(C(=C2C1Cl)C)C(=O)C=1C=NN(C1O)CC)(=O)=O | C16H16Cl2N2O4S
reactant | potassium carbonate | 4.7 mmol, 0.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | n-propanesulfonyl chloride | 4.7 mmol, 0.5 ml | C(CC)S(=O)(=O)Cl | C3H7ClO2S
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 3 ml | O | H2O
catalyst | benzyltriethylammonium chloride | 0.08 mmol, 20 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 3,4-dichloro-5-methyl-6-(1-ethyl-5-n-propanesulfonyloxypyrazol-4-yl)carbonylthiochroman-1,1-dioxide | 1.2 g, yield 50% | ClC1CS(C2=CC=C(C(=C2C1Cl)C)C(=O)C=1C=NN(C1OS(=O)(=O)CCC)CC)(=O)=O | C19H22Cl2N2O6S2
